US04522948
Diethyl(cyclohexylmethyl)malonate (5.12 g) was added to a solution of sodium ethoxide (from 0.5 g of sodium in ethanol (50 ml)) and the mixture warmed to 60° C. n-Butyl bromide (4.0 g) was then added and the mixture heated overnight under reflux, and the crude product isolated as in Part A above. Chromatography on silica gel eluting with 0-7.5% ethyl acetate in hexane gave pure diethyl 2-n-butyl-2-(cyclohexylmethyl)malonate.

reactant | Diethyl(cyclohexylmethyl)malonate | 5.12 g | C(C)OC(C(C(=O)OCC)CC1CCCCC1)=O | C14H24O4
reactant | sodium ethoxide | 50 ml, 0.5 g | [O-]CC.[Na+]
reactant | n-Butyl bromide | 4.0 g | C(CCC)Br | C4H9Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | diethyl 2-n-butyl-2-(cyclohexylmethyl)malonate | C(CCC)C(C(=O)OCC)(C(=O)OCC)CC1CCCCC1 | C18H32O4
